US05010100
An ambient temperature solution of 3-(N,N-dimethylamino)-1-(3,4,5-trimethoxyphenyl)-propan-1-one (242.5 g, 0.91 mole) in Et2O (1.62 L) under nitrogen atmosphere was treated with methyl iodide (83 mL, 1.27 mole) and stirred for 2 hours. The resulting mixture was filtered and dried under high vacuum overnight at room temperature to provide 3-(N,N,N-trimethylammonio)-1-(3,4,5-trimethoxyphenyl)propan-1-one iodide as a white solid which was used without further purification.

reactant | 3-(N,N-dimethylamino)-1-(3,4,5-trimethoxyphenyl)-propan-1-one | 0.91 mole, 242.5 g | CN(C)CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C14H21NO4
reactant | methyl iodide | 1.27 mole, 83 mL | CI | CH3I
solvent | Et2O | 1.62 L | CCOCC | C4H10O
product | 3-(N,N,N-trimethylammonio)-1-(3,4,5-trimethoxyphenyl)propan-1-one iodide | [I-].C[N+](C)(C)CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C15H24NO4.HI/c1-16(2,3)8-7-12(17)11-9-13(18-4)15(20-6)14(10-11)19-5;/h9-10H,7-8H2,1-6H3;1H/q+1;/p-1
